** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/1v2/tb_foldedcascode_nmos_tran.sch
**.subckt tb_foldedcascode_nmos_tran
Vdd v_dd GND 1.5
Vss v_ss GND 0
C1 v_out v_ss 1p m=1
Vin v_in v_ss dc 0.8 ac 1
.save v(v_in)
.save v(v_out)
Venable v_ena v_ss dc 0 pwl(0 0 1u 0 1.1u 1.5)
.save v(v_ena)
I0 v_dd net1 dc 0 pwl(0 0 1.1u 0 1.2u 14u)
x1 v_dd net1 v_out v_out v_in v_ena v_ss foldedcascode_nmos
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.temp 27

.ic v(v_out)=0
.option method=gear

.control
option sparse
save all

tran 0.005u 15u uic
plot v_ena v_out

* Settling time measurements
let vout_limit = 0.8*0.99
meas tran tcross WHEN v(v_out)=vout_limit
let vena_limit = 0.5*1.5
meas tran tstart WHEN v(v_ena)=vena_limit
let tsettle = tcross - tstart
print tsettle

remzerovec
write tb_foldedcascode_nmos_tran.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  foldedcascode_nmos.sym # of pins=7
** sym_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/1v2/foldedcascode_nmos.sym
** sch_path: /foss/designs/ChipAcharya/DSM/DSM_2ndOrder/1_Schematics/real_circuits/1v2/foldedcascode_nmos.sch
.subckt foldedcascode_nmos AVDD IBIAS VOUT MINUS PLUS D_ENA AVSS
*.ipin AVSS
*.ipin IBIAS
*.ipin AVDD
*.ipin PLUS
*.ipin MINUS
*.opin VOUT
*.ipin D_ENA
XM23 IBIAS net3 AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM25 IBIAS net2 net3 AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM24 net10 net3 AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM19 net10 net5 net4 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM20 net4 net4 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM21 AVSS net5 net8 AVDD sg13_lv_pmos w=14u l=0.5u ng=4 m=1
XM22 net8 net4 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM26 net7 net4 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM27 net5 net8 net7 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM28 net5 net15 net6 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM29 net6 net5 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM30 net9 net3 AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM31 net7 PLUS net9 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM32 net11 MINUS net9 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM42 AVDD net4 AVDD AVDD sg13_lv_pmos w=12u l=0.5u ng=4 m=1
XM41 AVDD net8 AVDD AVDD sg13_lv_pmos w=12u l=0.5u ng=4 m=1
XM38 AVSS net3 AVSS AVSS sg13_lv_nmos w=8u l=1u ng=4 m=1
XM33 net1 D_ENA AVDD AVDD sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XM34 net2 net1 AVDD AVDD sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XM35 net1 D_ENA AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM36 net2 net1 AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM37 net11 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM39 VOUT net8 net11 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM40 net11 net4 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM43 VOUT net15 net12 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM44 net12 net5 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM45 net12 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM46 VOUT AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM47 net11 AVDD AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM48 VOUT AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM49 net13 net4 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM50 net13 VOUT net14 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM51 net14 net14 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM52 net15 net14 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM53 AVDD VOUT net15 AVSS sg13_lv_nmos w=15u l=0.5u ng=4 m=1
XM54 AVSS net15 AVSS AVSS sg13_lv_nmos w=8u l=1u ng=4 m=1
XM55 net5 net1 AVSS AVSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM56 net7 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM57 net5 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM58 net6 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM59 net5 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM60 net4 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM61 net14 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
.ends

.GLOBAL GND
.end
